* Z:\mnt\design.r\spice\examples\1128.asc
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 31.6K
R2 N001 0 10
V3 IN 0 ac 1
C1 OUT N002 .1µ
R3 N002 N001 499
XU1 IN N001 +V -V OUT LT1128
.ac oct 10 1 200K
* Tape Head Amplifier
.lib LTC.lib
.backanno
.end
